US06211199B1
58.1 Synthesis of 1-(2-hydroxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine
Combine 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt) (2.0 g, 5.1 mmol) and anhydrous dichloromethane (100 mL). Cool in an ice bath. Add a solution of boron tribromide (17.8 mL, 1 M, 17.8 mmol) and stir. After 2 hours, pour the reaction mixture into ice-water and stir vigorously. After 18 hours, separate the layers and extract the organic layer with water. Saturate the aqueous layer with sodium chloride and extract with dichloromethane. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia to give a residue. Combine the residue and toluene/methanol. Evaporate invacao to give a residue, dissolve in dichloromethane, filter, evaporate, combine with dichloromethane, again evaporate to remove residual toluene to give the title compound: mp; 86-96° C. Rf=0.37 (silica gel, 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia).

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 5.1 mmol, 2.0 g | COC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C21H23N5O3
reactant | boron tribromide | 17.8 mmol, 1 M, 17.8 mL | B(Br)(Br)Br | BBr3
reactant | methanol dichloromethane | CO.ClCCl
reactant | toluene methanol | C1(=CC=CC=C1)C.CO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(2-hydroxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | OC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C20H21N5O3
